### PR TITLE
[Merged by Bors] - feat(Combinatorics): multigraphs

### PR DESCRIPTION
**Pull request by apnelson1**
This PR defines multigraphs via a structure `Graph a b` consisting of a vertex set, an edge set, and a 'binary incidence' predicate describing which edges are incident with which vertices. The definition uses the same 'embedded set' design as `Matroid`: the vertex and edge sets are modelled as `Set`s rather than types. 

We give basic API for incidence, adjacency and extensionality. 

[Zulip discussion.](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2324122.20Multigraphs)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,286 @@
...
+
+/-- A multigraph with vertex set `V : Set α` and edge set `E : Set β`,
+as described by a predicate describing whether an edge `e : β` has ends `x` and `y`. -/
+structure Graph (α β : Type*) where
+  /-- The vertex set. -/
+  V : Set α
+  /-- The edge set. -/
+  E : Set β
+  /-- The binary incidence predicate, stating that `x` and `y` are the ends of an edge `e` -/
+  Inc₂ : β → α → α → Prop
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:72]: What do you think about calling this `Link` instead? It saves needing to write `\_2`, and it's like in the Chou 1994 paper.

I'd read `G.Link e x y` as "`e` links `x` to `y`".

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,286 @@
...
+  /-- If `e` goes from `x` to `y`, it goes from `y` to `x`. -/
+  inc₂_symm : ∀ ⦃e x y⦄, Inc₂ e x y → Inc₂ e y x
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:74]: I'm not sure if this is obscurantism, but you could write this:
```suggestion
  inc₂_symm : ∀ e, Symmetric (Inc₂ e)
```
I think having `e` be explicit is likely useful.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,286 @@
...
+
+/-- A constructor for `Graph` in which the edge set is inferred from the incidence predicate
+rather than supplied explicitly. -/
+@[simps]
+protected def mk' (V : Set α) (Inc₂ : β → α → α → Prop)
+    (inc₂_symm : ∀ ⦃e x y⦄, Inc₂ e x y → Inc₂ e y x)
+    (eq_or_eq_of_inc₂_of_inc₂ : ∀ ⦃e x y v w⦄, Inc₂ e x y → Inc₂ e v w → x = v ∨ x = w)
+    (vx_mem_left_of_inc₂ : ∀ ⦃e x y⦄, Inc₂ e x y → x ∈ V) : Graph α β where
+  V := V
+  E := {e | ∃ x y, Inc₂ e x y}
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:258]: If you reorder the fields in `Graph` itself, moving `E` later you could have `E : Set β := {e | ∃ x y, Inc₂ e x y}` to set this as a default value, without needing to have this separate constructor.

The `edge_mem_iff_exists_inc\_2` field could use `by intro; rfl` as a default value.

There's no harm in a separate constructor though. It's more flexible anyway.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,286 @@
...
+  vx_mem_left_of_inc₂ := vx_mem_left_of_inc₂
+
+@[simp]
+lemma mk'_eq_self (G : Graph α β) : Graph.mk' G.V G.Inc₂ (fun _ _ _ ↦ Inc₂.symm)
+  (fun _ _ _ _ _ h h' ↦ h.left_eq_or_eq_of_inc₂ h') (fun _ _ _ ↦ Inc₂.vx_mem_left) = G := by
+  have h := G.edgeSet_eq_setOf_exists_inc₂
+  cases G with | mk V E Inc₂ _ _ _ => simpa [Graph.mk'] using h.symm
+
+/-- Two graphs with the same vertex set and binary incidences are equal. -/
+@[ext]
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:272]: What's the justification for defining an `@[ext]` lemma instead of putting `@[ext]` on `Graph`? (Could you include that justification as a comment?)

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 1 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:72]: Would it be `IsLink`?

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:258]: Maybe I'll stick with the separate constructor, then.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:72]: Maybe `G.Links e x y`?

`IsLink` is ok, but it doesn't have an easy English reading that I can see. `G.IsLink e x y` would be "the triple `e`, `x`, and `y` is a link" I suppose.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:72]: I'm away from a keyboard until Tuesday, but I'm happy to continue the bikeshedding in the meantime.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,289 @@
...
+definitions and canonical coercion maps. The same will go for minors and the various other
+partial orders on multigraphs.
+
+The main tradeoff is that parts of the API will require caring about whether a term
+`x : α` or `e : β` is a 'real' vertex or edge of the graph, rather than something outside
+the vertex or edge set. This is an issue, but is likely amenable to automation.
+
+## Notation
+
+Relecting written mathematics, we use the compact notations `G.V` and `G.E` to describe
```
Comment (Parcly-Taxel) [inline Mathlib/Combinatorics/Graph/Basic.lean:54]:
```suggestion
Reflecting written mathematics, we use the compact notations `G.V` and `G.E` to describe
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,289 @@
...
+  /-- An edge is incident with at most one pair of vertices. -/
+  eq_or_eq_of_inc₂_of_inc₂ : ∀ ⦃e x y v w⦄, Inc₂ e x y → Inc₂ e v w → x = v ∨ x = w
+  /-- An edge `e` is incident to something if and only if `e` is in the edge set -/
+  edge_mem_iff_exists_inc₂ : ∀ e, e ∈ E ↔ ∃ x y, Inc₂ e x y
+  /-- If some edge `e` is incident to `x`, then `x ∈ V`. -/
+  vx_mem_left_of_inc₂ : ∀ ⦃e x y⦄, Inc₂ e x y → x ∈ V
+
+namespace Graph
+
+variable {G H : Graph α β}
```
Comment (madvorak) [inline Mathlib/Combinatorics/Graph/Basic.lean:84]:
```suggestion
variable {G : Graph α β}
```

**Review by madvorak — APPROVED** [review]

**Review by b-mehta — COMMENTED** [review]
I haven't reviewed the code carefully; I will try to do so in the near future, but in the meantime let me just say that I'm on board with the general shape of the main definition in this PR.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,289 @@
...
+as described by a predicate describing whether an edge `e : β` has ends `x` and `y`. -/
+structure Graph (α β : Type*) where
+  /-- The vertex set. -/
+  V : Set α
+  /-- The edge set. -/
+  E : Set β
+  /-- The binary incidence predicate, stating that `x` and `y` are the ends of an edge `e` -/
+  Inc₂ : β → α → α → Prop
+  /-- If `e` goes from `x` to `y`, it goes from `y` to `x`. -/
+  inc₂_symm : ∀ e, Symmetric <| Inc₂ e
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:74]: Do you really need global symmetry, or is symmetry on `E` and `V` sufficient?

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,289 @@
...
+
+open Set
+
+/-- A multigraph with vertex set `V : Set α` and edge set `E : Set β`,
+as described by a predicate describing whether an edge `e : β` has ends `x` and `y`. -/
+structure Graph (α β : Type*) where
+  /-- The vertex set. -/
+  V : Set α
+  /-- The edge set. -/
+  E : Set β
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:70]: I can see the argument for `V`, but why do we need `E`? Can't this be encoded into `Inc₂`?

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:70]: It can, but I've included it for good definitional properties. The extensionality section has an alternative constructor that doesn't need `E`.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:70]: I'm not fully convinced; why do we care about the defeq of `E` but not `Inc`?

Usually we only provide fields for "good definitional properties" when the alternative is instance diamonds / DTT hell, which as far as I can tell is not relevant here.

At any rate, if you insist on keeping the field for this reason, please mention that it exists only for nice defeqs in the docstring (referencing `edgeSet_eq_setOf_exists_inc₂` which shows it is fixed)

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,289 @@
...
+
+The main tradeoff is that parts of the API will require caring about whether a term
+`x : α` or `e : β` is a 'real' vertex or edge of the graph, rather than something outside
+the vertex or edge set. This is an issue, but is likely amenable to automation.
+
+## Notation
+
+Reflecting written mathematics, we use the compact notations `G.V` and `G.E` to describe
+vertex and edge sets formally, but use the longer terms `vxSet` and `edgeSet` within
+lemma names to refer to the same objects.
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:56]: If we're going to go this way with naming, I think we should rename SimpleGraph.edgeSet to match.

The actual rename doesn't need to happen before this PR, but getting consensus that the rename *should* happen seems like it should happen first.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:56]: I'm on board, but what do @kmill and @b-mehta think?

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 8 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:70]: The first place this comes up is when you restrict to a set of edges. It's convenient if `(G.edgeRestrict F).E = F` is `rfl`. 

I'll add an explanation in the docstring.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:70]: Edge-restriction is a little weird, because in fact one needs `(G.edgeRestrict F).E = F ∩  G.E`, though this is still a convenient defeq. 

In my repo, I have used the defeq `rfl : (G.edgeDelete F).E = G.E \ F` quite a few times, and something similar will work for contraction.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 10]
```diff
@@ -16,37 +16,37 @@ and there may also be more than one edge `e` whose ends are the same pair `(x,y)
 A multigraph where neither of these occurs is 'simple',
 and these objects are described by `SimpleGraph`.
 
-This module defines `Graph α β` for a vertex type `α` and an edge type `β`,
+This module defines `Graph α ε` for a vertex type `α` and an edge type `ε`,
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Graph/Basic.lean:19]: I think keeping beta here is quite a bit nicer than epsilon!

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:19]: I don't have the same feeling about relative ugliness of greek letters. My rationale was that epsilon suggests E for edge, and that beta looks weird if there are vertices called `a, b, c`. 

But I can change it back if you prefer.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:56]: A Zulip poll might be a good idea too, though indeed the opinions of Kyle and Bhavik carry more weight than most.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean]: (the poll happened at [#mathlib4 > Renaming SimpleGraph.{edgeSet,vertexSet} @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Renaming.20SimpleGraph.2E.7BedgeSet.2CvertexSet.7D/near/516782444))

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,320 @@
...
+
+variable {α β : Type*} {x y z u v w : α} {e f : β}
+
+open Set
+
+/-- A multigraph with vertex set `vertexSet : Set α` and edge set `edgeSet : Set β`,
+as described by a predicate describing whether an edge `e : β` has ends `x` and `y`.
+For definitional reasons, we include `edgeSet` as a structure field
+even though it can be inferred from `IsLink` via `edge_mem_iff_exists_isLink`;
+see `Graph.mk'` for a constructor that does not use `edgeSet`. -/
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:68]: Thanks for adding this. I'd still like to hear @b-mehta and @kmill's opinion on this, vs:
```lean
def Graph.edgeSet (g : Graph α β) : Set β := {e | ∃ x y, IsLink e x y}
```
Generally speaking, I don't think we add these redundant fields until we have a concrete scenario that requires them.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: `Matroid` does something similar, where `Indep` is a structure field that can be inferred from the others, but it's there so it can be given definitionally when matroids are constructed. This isn't needed, but it's convenient, and I remember Kyle welcoming the change when I made it.

Again, it is just nice to have the edge set of a graph obtained from `G` by deleting or contracting edges defeq to the expected thing.

The fact that `edgeSet` can be inferred is more an artefact of the design than a mathematical point, and I think if this were hidden, it would make it less obvious to someone reading the definition that there can be terms in the edge type that are outside `edgeSet`.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: > It is just nice to have the edge set of a graph obtained from G by deleting or contracting edges defeq to the expected thing.

An analogy I'd like to draw is that we don't have a `toSet` field in `Finset`, but seem to do fine without having things like ` Finset.coe_inter _ _ : ↑(s₁ ∩ s₂) = ↑s₁ ∩ ↑s₂` be true by definition.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: I would like that to be true by definition too! Lack of defeqs are one of the reasons `Finset` can be awkward to use. In that example, computability is a reason not to do this. But I don't see such a reason here.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: I don't think having a `Finset.toSet` field would have any impact on computability.

> Lack of defeqs is one of the reasons `Finset` can be awkward to use.

I think there are lots of people with the opinion that defeqs are irrelevant and what really matters are `simp` lemmas.

Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: > I would like that to be true by definition too!

It wouldn't surprise me if @YaelDillies agrees with you on this, for `Finset`; but I think it's fair to say that it's a departure from the status quo for other types in mathlib.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: Even if it's a slight departure, so is the whole design. I think that in a way this is embracing the 'definitions don't matter' philosophy. We have the `mk'` constructor and the right `ext` lemma anyway, so what's the harm in a redundant structure field if it makes life easier?

It feels misguided to me to make the definition as skinny as possible in the name of precedent, when there are concrete tradeoffs in doing so, even if the tradeoffs are small.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,289 @@
+/-
+Copyright (c) 2025 Peter Nelson. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Peter Nelson, Jun Kwon
+-/
+import Mathlib.Data.Set.Basic
+
+/-!
+# Multigraphs
```
[the remark this answers is not in the document]
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:10]: (@AntoineChambert-Loir A large-scale design I have in mind is that eventually each aspect of graphs split off into their own typeclasses. There are too many kinds of graphs that graph theorists work with, and it is hopeless to define every kind of concrete graph in mathlib. The theory will be about graphs with such-and-such properties à la carte — then you can 'bring your own graph type' and hook it into the theory — and this is something we will want to support when people will use the graph theory library in the analysis of algorithms.

I'm partial to multigraphs with geometric realizations myself, and in fact this has been my goal from the beginning, but after 5 years of discussion we need to move forward with *some* version of multigraph. The one in Chou 1994 is fine enough to support everything I'd teach in an undergraduate combinatorics course. It's basically what I started with in my early Mathlib 3 multigraph branches, but Peter has made some improvements to the idea.)

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,320 @@
...
+
+A multigraph is a set of vertices and a set of edges,
+together with incidence data that associates each edge `e`
+with an unordered pair `(x,y)` of vertices called the 'ends' of `e`.
+`x` and `y` may be equal, in which case `e` is a 'loop',
+and there may also be more than one edge `e` whose ends are the same pair `(x,y)`.
+A multigraph where neither of these occurs is 'simple',
+and these objects are described by `SimpleGraph`.
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:18]: A couple suggestions for wording.
```suggestion
together with incidence data that associates each edge `e`
with an unordered pair `s(x,y)` of vertices called the *ends* of `e`.
The pair of `e` and `s(x,y)` is called a *link*.
The vertices `x` and `y` may be equal, in which case `e` is a *loop*.
There may be more than one edge with the same ends.

If a multigraph has no loops and has at most one edge for every given ends, it is called *simple*,
and these objects are also formalized as `SimpleGraph`.
```

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 11 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:68]: I don't see any problem having a little bit of redundant data. The `edgeSet` is a primary notion of a graph too — I feel like in practice you know what the `edgeSet` is after a graph operation, and then you would try to figure out what the `IsLink` definition should be to support it.

This is also a solution to the bundle/fiber problem (I think I heard this as Grothendieck straigtening/unstraightening a while back). I might even argue for a `ends : edgeSet -> Sym2 α` function to complete things, if it weren't such a difficult type (subtypes + quotients). Basically, `fun x y => { e | IsLink e x y }` gives the edges between vertices, but these assemble into the `edgeSet` "bundle" with projections to ends. It's possible to construct one from the other, but the round trip isn't the same as the original.

(FWIW, we've had serious discussions about adding a `Finset.toSet` field before :-) )

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,320 @@
...
+  /-- The binary incidence predicate, stating that `x` and `y` are the ends of an edge `e`. -/
+  IsLink : β → α → α → Prop
+  /-- If `e` goes from `x` to `y`, it goes from `y` to `x`. -/
+  isLink_symm : ∀ ⦃e⦄, e ∈ edgeSet → (Symmetric <| IsLink e)
+  /-- An edge is incident with at most one pair of vertices. -/
+  eq_or_eq_of_isLink_of_isLink : ∀ ⦃e x y v w⦄, IsLink e x y → IsLink e v w → x = v ∨ x = w
+  /-- An edge `e` is incident to something if and only if `e` is in the edge set. -/
+  edge_mem_iff_exists_isLink : ∀ e, e ∈ edgeSet ↔ ∃ x y, IsLink e x y
+  /-- If some edge `e` is incident to `x`, then `x ∈ V`. -/
+  vx_mem_left_of_isLink : ∀ ⦃e x y⦄, IsLink e x y → x ∈ vertexSet
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:83]: Can we please use `vertex`, `vert`, or `vtx` instead of `vx`? I've never seen `vx` before for vertices. For abbreviations, I'm happiest with `vert` or `vtx`. Whatever the case, let's document the choice of terminology.
```suggestion
  vert_mem_left_of_isLink : ∀ ⦃e x y⦄, IsLink e x y → x ∈ vertexSet
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,320 @@
...
+
+/-- `V(G)` denotes the `vertexSet` of a graph `G`. -/
+scoped notation "V(" G ")" => Graph.vertexSet G
+
+/-- `E(G)` denotes the `edgeSet` of a graph `G`. -/
+scoped notation "E(" G ")" => Graph.edgeSet G
+
+/-! ### Edge-vertex-vertex incidence -/
+
+lemma IsLink.edge_mem (h : G.IsLink e x y) : e ∈ E(G) :=
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:97]: I see `mem_edgeSet` below. Maybe `IsLink.mem_edgeSet` is more consistent?

I think I'm ok with this though, so long as we document that "if `G.IsLink e x y` is true then we refer to `e` as an `edge` and `x` and `y` as `verts`/`vtxs` in names"

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,320 @@
...
+
+@[simp]
+lemma IsLoopAt.edge_mem (h : G.IsLoopAt e x) : e ∈ E(G) :=
+  h.inc.edge_mem
+
+@[simp]
+lemma IsLoopAt.vx_mem (h : G.IsLoopAt e x) : x ∈ V(G) :=
+  h.inc.vx_mem
+
+/-- `G.IsNonloopAt e x` means that `e` is an edge from `x` to some `y ≠ x`. -/
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:228]: I think this is true? (And it might be nice to include it as an extra theorem.) I'd find it helpful to include to answer "why do we need `IsNonloopAt` as a separate definition?"
```suggestion
/--
`G.IsNonloopAt e x` means that `e` is an edge from `x` to some `y ≠ x`.
This is equivalent to `G.Inc e x ∧ ¬ G.IsLoopAt e x`.
-/
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,320 @@
...
+protected lemma ext {G₁ G₂ : Graph α β} (hV : V(G₁) = V(G₂))
+    (h : ∀ e x y, G₁.IsLink e x y ↔ G₂.IsLink e x y) : G₁ = G₂ := by
+  rw [← G₁.mk'_eq_self, ← G₂.mk'_eq_self]
+  simp_rw [hV]
+  convert rfl using 2
+  ext
+  rw [h]
+
+/-- Two graphs with the same vertex set and unary incidences are equal. -/
+@[ext]
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:315]: We can't have two `@[ext]` lemmas unfortunately. I might suggest the first one  as the `@[ext]` since `IsLink` is basic and avoids an extra existential.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 15 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:97]: What do you think of just `left` and `right` to refer to the vertices when in the `IsLink` namespace?

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,325 @@
...
+
+The main tradeoff is that parts of the API will need to care about whether a term
+`x : α` or `e : β` is a 'real' vertex or edge of the graph, rather than something outside
+the vertex or edge set. This is an issue, but is likely amenable to automation.
+
+## Notation
+
+Reflecting written mathematics, we use the compact notations `V(G)` and `E(G)` to
+refer to the `vertexSet` and `edgeSet` of `G : Graph α β`.
+If `G.IsLink e x y` then we refer to `e` as `edge` and `x` and `y` as `left` and `right` in names.
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:59]: I think this would be better placed in the `IsLink` docstring.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,325 @@
...
+  Set.ext G.edge_mem_iff_exists_isLink
+
+lemma IsLink.left_eq_or_eq_of_isLink (h : G.IsLink e x y) (h' : G.IsLink e z w) : x = z ∨ x = w :=
+  G.eq_or_eq_of_isLink_of_isLink h h'
+
+lemma IsLink.left_eq_of_isLink_of_ne (h : G.IsLink e x y) (h' : G.IsLink e z w) (hzx : x ≠ z) :
+    x = w :=
+  (h.left_eq_or_eq_of_isLink h').elim (False.elim ∘ hzx) id
+
+lemma IsLink.right_eq_of_isLink (h : G.IsLink e x y) (h' : G.IsLink e x z) : y = z := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:127]: I'd be tempted to write this as
```suggestion
lemma IsLink.trans (h : G.IsLink e x y) (h' : G.IsLink e y z) : x = z := by
```
but only if you think this is reasonable.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,325 @@
...
+  exact h.symm
+
+lemma IsLink.isLink_iff_sym2_eq (h : G.IsLink e x y) {x' y' : α} :
+    G.IsLink e x' y' ↔ s(x,y) = s(x',y') := by
+  rw [h.isLink_iff, Sym2.eq_iff]
+
+/-! ### Edge-vertex incidence -/
+
+/-- The unary incidence predicate of `G`. `G.Inc e x` means that `x` is one of the ends of `e`. -/
+def Inc (G : Graph α β) (e : β) (x : α) : Prop := ∃ y, G.IsLink e x y
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:156]: To make the naming below super clear, you could write
```suggestion
def Inc (G : Graph α β) (edge : β) (vertex : α) : Prop := ∃ y, G.IsLink edge vertex y
```
(if @kmill agrees)

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 18 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/Graph/Basic.lean:59]: (and for `Inc`)

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,325 @@
...
+
+lemma IsLink.adj (h : G.IsLink e x y) : G.Adj x y :=
+  ⟨e, h⟩
+
+/-! ### Extensionality -/
+
+/-- A constructor for `Graph` in which the edge set is inferred from the incidence predicate
+rather than being supplied explicitly. -/
+@[simps]
+protected def mk' (vertexSet : Set α) (IsLink : β → α → α → Prop)
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:290]: Do we actually benefit from this constructor, or could we make `edgeSet := {e | ∃ x y, IsLink e x y}` a default in the regular constructor?

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 19 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:127]: That is cute, but a bit mind-boggling. I think the current way is a bit more comprehensible, even if more pedestrian.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 21 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:290]: Is there a way to fill in the default proof of edge_mem_iff_exists_isLink as fun e => Iff.rfl if doing things this way?

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:156]: This feels a bit like overkill to me, but I'm happy to change it if outvoted.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:127]: I'd call this
```suggestion
lemma IsLink.right_unique (h : G.IsLink e x y) (h' : G.IsLink e x z) : y = z := by
```
actually

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: It looks to me like
```suggestion
def Inc (G : Graph V E) (e : E) (x : V) : Prop := ∃ y, G.IsLink e x y
```
would make it super clear too

Comment (b-mehta) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: What about using `v` and `w` (or `v_1` and `v_2`) for vertices, instead of `x`?

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: This doesn't make a difference to my own mental notation model (vertices at the end of the alphabet, edges near the beginning). I think I avoid `v` slightly because it resembles `∨` a bit too closely. But I agree that changing it here makes sense.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: Actually, in starting to make the change, the scope will naturally creep to using `G.IsLink e v w` everywhere. Do `x` and `y` seem suboptimal as vertex identifiers to you?

Comment (b-mehta) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: I think they're fine as vertex identifiers, but I agree with Eric's point at the start that when reading `Inc` it takes a second to figure out what's going on. Maybe changing the docstring is enough though:
```
`G.Inc e x` means that the vertex `x` is one of the ends of the edge `e`.
```

Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: > I'm avoiding using `V` and `E` for the types altogether, because they are so close to the `V(G)` and `E(G)` notation for the vertex and edge sets, and it is important that these are different.

What about `𝒱`/`ℰ ` or some analogously curly letter?

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:289]: Yes, proof fields too can have default arguments

Comment (b-mehta) [reply Mathlib/Combinatorics/Graph/Basic.lean:289]: Yeah, see for example the constructor for `lt` on preorders and a property describing it `lt_iff_le_not_le`: https://github.com/leanprover-community/mathlib4/blob/6534503fc2ed0aa28f544b96125ee6f97a26e30f/Mathlib/Order/Defs/PartialOrder.lean#L38-L43

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:289]: I couldn't get this to work. 

```
edgeSet : Set β := {e | ∃ x y, IsLink e x y}
  edge_mem_iff_exists_isLink : ∀ e, e ∈ edgeSet ↔ ∃ x y, IsLink e x y := fun e ↦ Iff.rfl
``` 

gives 
```
type mismatch
  Iff.rfl
has type
  ?m.234 ↔ ?m.234 : Prop
but is expected to have type
  e ∈ edgeSet ↔ ∃ x y, IsLink e x y : Prop
```

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: I'm hesitant (and not just because the curly E is hard to read). It's a small barrier to typing the symbols, and I think that anyone engaging with this stuff will internalize `Graph α β` quickly.

If I change this, I should also change `Matroid α` to `Matroid ℰ`.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:289]: It needs to be hidden inside a `by` block, as otherwise it is immediately evaluated

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:155]: > If I change this, I should also change `Matroid α` to `Matroid ℰ`.

`Matroid α` doesn't suffer the same issue as `Graph α β` though: There's only one type, therefore it's clear what its role is.

It's generally a bad idea to give similar names to types playing different roles

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 21 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean]: Ok, the last push removes it.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:158]: I think `x` is a fine for vertices. We use both `x,y,z` and `u,v,w` in simple graphs.

Having a good doc string here is important. How about "`G.Inc e x` means that the edge `e` is incident to the vertex `x`, which is to say that `x` is one (or both) of the endpoints of `e`"?

Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:158]: Re letters to use: I don't mind alpha and beta, though of course they could be a little less obscure.

Sticking with greek, one could use `κ` for vertices (κορυφή in ancient Greek) and `γ` for edges (it's the g in poly*g*on, for line segment). I don't know how serious I am with this suggestion.

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:158]: Earlier I was using `α` and `ε`, where the `ε` suggests 'edge' for reasons less dependent on a classics degree. But Bhavik pointed out that this letter is seldom used for types. 

In response to Yael's comment, I would say that `α` and `β` do actually play similar roles, in the same sort of way as the rows/columns of a matrix. Having similar names for the types doesn't feel objectionable to me, provided conventions like `x y z u v w : α` and `e f g : β` are broadly followed.

Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:158]: How about we stick with alpha and beta for now and revisit this on a future refactor?

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:158]: SGTM. I've just pushed to make docstrings more explicit throughout the file as per your suggestion.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,318 @@
...
+
+variable {α β : Type*} {x y z u v w : α} {e f : β}
+
+open Set
+
+/-- A multigraph with vertex set `vertexSet : Set α` and edge set `edgeSet : Set β`,
+as described by a predicate `IsLink` describing whether an edge `e : β` has ends `x` and `y`.
+For definitional reasons, we include `edgeSet` as a structure field
+even though it can be inferred from `IsLink` via `edge_mem_iff_exists_isLink`;
+The default value for `edgeSet` infers its value in this way.
```
Comment (kmill) [inline Mathlib/Combinatorics/Graph/Basic.lean:70]: Maybe let's split this into two paragraphs and move any discussion about definitional equality to the end. Knowing about what can be inferred from what is more important.

```suggestion

The `edgeSet` structure field can be inferred from `IsLink`
via `edge_mem_iff_exists_isLink` (and this structure provides default values
for `edgeSet` and `edge_mem_iff_exists_isLink` that use `IsLink`).
While the field is not strictly necessary, when defining a graph we often
immediately know what the edge set should be,
and furthermore having `edgeSet` separate can be convenient for
definitional equality reasons.
```

**Review by kmill — APPROVED** [review]
I'm happy enough with this to merge, once the docstring for `Graph` is modified a bit.

I'll delegate merging to you @apnelson1, unless @b-mehta or another reviewer vetos.

bors d+

**Comment by apnelson1** [comment]
I have incorporated Kyle's last suggestion. I will wait until tonight before merging in case any reviewers see anything that needs addressing. 

Thank you to everyone that contributed for all your work on this - getting this in makes a good day for combinatorics in mathlib!

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,323 @@
...
+
+For `G : Graph α β`, ...
+
+* `V(G)` denotes the vertex set of `G` as a term in `Set α`.
+* `E(G)` denotes the edge set of `G` as a term in `Set β`.
+* `G.IsLink e x y` means that the edge `e : β` has vertices `x : α` and `y : α` as its ends.
+* `G.Inc e x` means that the edge `e : β` has `x` as one of its ends.
+* `G.Adj x y` means that there is an edge `e` having `x` and `y` as its ends.
+* `G.IsLoopAt e x` means that `e` is a loop edge with both ends equal to `x`.
+* `G.IsNonloopAt e x` means that `e` is a non-loop edge with one end equal to `x`.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:36]: Do you say "a nonloop" rather than "a non-loop"?
```suggestion
* `G.IsNonLoopAt e x` means that `e` is a non-loop edge with one end equal to `x`.
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,323 @@
...
+
+/-- `E(G)` denotes the `edgeSet` of a graph `G`. -/
+scoped notation "E(" G ")" => Graph.edgeSet G
+
+/-! ### Edge-vertex-vertex incidence -/
+
+lemma IsLink.edge_mem (h : G.IsLink e x y) : e ∈ E(G) :=
+  (edge_mem_iff_exists_isLink ..).2 ⟨x, y, h⟩
+
+lemma IsLink.symm (h : G.IsLink e x y) : G.IsLink e y x :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:109]:
```suggestion
protected lemma IsLink.symm (h : G.IsLink e x y) : G.IsLink e y x :=<
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,323 @@
...
+  G.isLink_symm h.edge_mem h
+
+lemma IsLink.left_mem (h : G.IsLink e x y) : x ∈ V(G) :=
+  G.left_mem_of_isLink h
+
+lemma IsLink.right_mem (h : G.IsLink e x y) : y ∈ V(G) :=
+  h.symm.left_mem
+
+lemma isLink_comm : G.IsLink e x y ↔ G.IsLink e y x :=
+  ⟨IsLink.symm, IsLink.symm⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:119]: nit:
```suggestion
  ⟨.symm, .symm⟩
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,323 @@
...
+
+lemma exists_isLink_of_mem_edgeSet (h : e ∈ E(G)) : ∃ x y, G.IsLink e x y :=
+  (edge_mem_iff_exists_isLink ..).1 h
+
+lemma edgeSet_eq_setOf_exists_isLink : E(G) = {e | ∃ x y, G.IsLink e x y} :=
+  Set.ext G.edge_mem_iff_exists_isLink
+
+lemma IsLink.left_eq_or_eq_of_isLink (h : G.IsLink e x y) (h' : G.IsLink e z w) : x = z ∨ x = w :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:127]: I'd suggest
```suggestion
lemma IsLink.eq_or_eq (h : G.IsLink e x y) (h' : G.IsLink e z w) : x = z ∨ x = w :=
```
to avoid redundancy. I also don't see why there's a `left_` and no `right_`

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,323 @@
...
+  G.eq_or_eq_of_isLink_of_isLink h h'
+
+lemma IsLink.left_eq_of_isLink_of_ne (h : G.IsLink e x y) (h' : G.IsLink e z w) (hzx : x ≠ z) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:130]:
```suggestion
lemma IsLink.left_eq_of_right_ne (h : G.IsLink e x y) (h' : G.IsLink e z w) (hzx : x ≠ z) :
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,323 @@
...
+
+lemma IsLink.right_unique (h : G.IsLink e x y) (h' : G.IsLink e x z) : y = z := by
+  obtain rfl | rfl := h.symm.left_eq_or_eq_of_isLink h'.symm
+  · rfl
+  obtain rfl | rfl := h'.symm.left_eq_or_eq_of_isLink h.symm <;> rfl
+
+lemma IsLink.left_unique (h : G.IsLink e x z) (h' : G.IsLink e y z) : x = y :=
+  h.symm.right_unique h'.symm
+
+lemma IsLink.eq_and_eq_or_eq_and_eq_of_isLink {x' y' : α} (h : G.IsLink e x y)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:142]:
```suggestion
lemma IsLink.eq_and_eq_or_eq_and_eq {x' y' : α} (h : G.IsLink e x y)
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,323 @@
...
+  rintro ⟨⟨x', hx'⟩, ⟨y', hy'⟩, h⟩
+  obtain rfl | rfl := h _ hx'.inc_right
+  · obtain rfl | rfl := hx'.left_eq_or_eq_of_isLink hy'
+    · assumption
+    exact hy'.symm
+  assumption
+
+/-- Given a proof that the edge `e` is incident with the vertex `x` in `G`,
+noncomputably find the other end of `e`. (If `e` is a loop, this is equal to `x` itself). -/
+noncomputable def Inc.other (h : G.Inc e x) : α := h.choose
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:199]: Can you define this using `x` as junk value instead of taking `G.Inc e x`? Otherwise it will very unusefully show as `⋯.other` in the infoview! And please call it `Graph.other` or something like that, outside the `Inc` namespace

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,323 @@
...
+
+@[simp]
+lemma Inc.isLink_other (h : G.Inc e x) : G.IsLink e x h.other :=
+  h.choose_spec
+
+@[simp]
+lemma Inc.inc_other (h : G.Inc e x) : G.Inc e h.other :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:206]: Then this becomes
```suggestion
protected lemma Inc.other (h : G.Inc e x) : G.Inc e (G.other e x) :=
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,323 @@
...
+  h.isLink_other.inc_right
+
+lemma Inc.eq_or_eq_or_eq_of_inc_of_inc (hx : G.Inc e x) (hy : G.Inc e y) (hz : G.Inc e z) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:209]:
```suggestion
lemma Inc.eq_or_eq_or_eq (hx : G.Inc e x) (hy : G.Inc e y) (hz : G.Inc e z) :
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,323 @@
...
+lemma isLink_self_iff : G.IsLink e x x ↔ G.IsLoopAt e x := Iff.rfl
+
+lemma IsLoopAt.inc (h : G.IsLoopAt e x) : G.Inc e x :=
+  IsLink.inc_left h
+
+lemma IsLoopAt.eq_of_inc (h : G.IsLoopAt e x) (h' : G.Inc e y) : x = y := by
+  obtain rfl | rfl := h'.eq_or_eq_of_isLink h <;> rfl
+
+@[simp]
+lemma IsLoopAt.edge_mem (h : G.IsLoopAt e x) : e ∈ E(G) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:230]:
```suggestion
lemma IsLoopAt.mem_edgeSet (h : G.IsLoopAt e x) : e ∈ E(G) :=
```
is more correct and probably more discoverable too

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,323 @@
...
+  h.inc.edge_mem
+
+@[simp]
+lemma IsLoopAt.vertex_mem (h : G.IsLoopAt e x) : x ∈ V(G) :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:234]:
```suggestion
lemma IsLoopAt.mem_vertexSet (h : G.IsLoopAt e x) : x ∈ V(G) :=
```
similarly

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,323 @@
...
+
+@[simp]
+lemma IsNonloopAt.edge_mem (h : G.IsNonloopAt e x) : e ∈ E(G) :=
+  h.inc.edge_mem
+
+@[simp]
+lemma IsNonloopAt.vertex_mem (h : G.IsNonloopAt e x) : x ∈ V(G) :=
+  h.inc.vertex_mem
+
+lemma IsLoopAt.not_isNonloop_at (h : G.IsLoopAt e x) (y : α) : ¬ G.IsNonloopAt e y := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:253]:
```suggestion
lemma IsLoopAt.not_isNonloopAt (h : G.IsLoopAt e x) (y : α) : ¬ G.IsNonloopAt e y := by
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,323 @@
...
+
+lemma Inc.isLoopAt_or_isNonloopAt (h : G.Inc e x) : G.IsLoopAt e x ∨ G.IsNonloopAt e x := by
+  simp [isNonloopAt_iff_inc_not_isLoopAt, h, em]
+
+/-! ### Adjacency -/
+
+/-- `G.Adj x y` means that `G` has an edge whose ends are the vertices `x` and `y`. -/
+def Adj (G : Graph α β) (x y : α) : Prop := ∃ e, G.IsLink e x y
+
+lemma Adj.symm (h : G.Adj x y) : G.Adj y x :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean:275]:
```suggestion
protected lemma Adj.symm (h : G.Adj x y) : G.Adj y x :=
```

**Review by YaelDillies — COMMENTED** [review]
Apologies! Today might not be the day; I only had time to review this properly now. At least I am not bothering you with big design decisions anymore, only basic argument and naming issues.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 29 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:199]: Are you suggesting this to work around pretty printing issues?

Let's not change the API just on account of the pretty printer. I'd rather fix the pretty printing and preserve dot notation.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 32 above)
Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:230]: This one follows the convention established in `Inc.edge_mem`, `IsLink.edge_mem`, etc.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 29 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:199]: There's probably a junk value design, where given `x` and `e` it gives the other end of `e`. I'd rather see this PR be merged than wait on more design work — that's an easy thing for someone else to follow up on in a future PR, and there's nothing wrong with the current design.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 32 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:230]: I didn't comment on this one earlier because it's in parallel to the IsLink variant. Arguably `IsLoopAt` has the same naming considerations as what's documented about IsLink, so saying it's more correct isn't necessarily correct (though it's not documented that `IsLoopAt` uses the same naming scheme as `IsLink`).

I personally slightly prefer `mem_edgeSet` rather than use `edge`.

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: Sorry, I am still very much against using interchangeable letters for no-interchangeable types. Could we at least settle on non-interchangeable letters? eg `Ω α` instead of `α β`? (with the reasoning that `Ω` is the "world")

Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: > I'm avoiding using `V` and `E` for the types altogether, because they are so close to the `V(G)` and `E(G)` notation for the vertex and edge sets, and it is important that these are different.

I also don't *really* buy that argument: `V(G)`/`E(G)` are quite visually different to `V`/`E`. In fact, I am rather confident that if you don't name them `V`/`E` now then in six months someone (possibly me, after I have forgotten the current discussion) will whip up a quick PR renaming them to that, because it's so obviously the correct names.

**Comment by YaelDillies** [comment]
After a quick experiment on the current diff, I can confirm that skim-reading statements doesn't give me any understanding of whether `α` is the vertices or the edges, so marking `awaiting-author` on https://github.com/leanprover-community/mathlib4/pull/24122#discussion_r2089808361

File: Mathlib/Combinatorics/Graph/Basic.lean (hunk 20 above)
Comment (kmill) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: Could we please review that in six months then? If the current variable names are fine enough to last that long, I don't see any reason to hold up this PR.

Comment (b-mehta) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: > Sorry, I am still very much against using interchangeable letters for non-interchangeable types.

I don't think these are non-interchangeable; as Peter mentions above these are just like the rows and columns of a matrix.

> I also don't really buy that argument: `V(G)`/`E(G)` are quite visually different to `V`/`E`.

I disagree with this too; to me the most worst option is for `V` to be a type and `V(G)` to be notation for a set; this feels like a very easy recipe for confusion.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: > I don't think these are non-interchangeable; as Peter mentions above these are just like the rows and columns of a matrix.

Is there an obvious map `Graph α β → Graph β α`?

Comment (apnelson1) [reply Mathlib/Combinatorics/Graph/Basic.lean:167]: That's a high bar to set. For me, `α` is the type of 'primary things' and `β` is the 'secondary things' (or, if you like, unary things and binary things) represented by the first two letters of the Greek alphabet.

They are related like different types of radiation!

**Comment by apnelson1** [comment]
> After a quick experiment on the current diff, I can confirm that skim-reading statements doesn't give me any understanding of whether `α` is the vertices or the edges, so marking `awaiting-author` on [#24122 (comment)](https://github.com/leanprover-community/mathlib4/pull/24122#discussion_r2089808361)

The docstring for `Graph` now makes this clear, and it is reinforced by the choice of variable name in every case. I'll remove the tag.

**Comment by YaelDillies** [comment]
What if you want to talk about graphs over two types of vertices? two types of edges? Will we have to use `α₁`, `α₂`, `β₁`, `β₂`?

**Comment by apnelson1** [comment]
> What if you want to talk about graphs over two types of vertices? two types of edges? Will we have to use `α₁`, `α₂`, `β₁`, `β₂`?

Yes, or primes (or gamma and delta). We're in unicode land anyway, and I think using subscripts to link related things is generally good practice.

**Comment by kmill** [comment]
> What if you want to talk about graphs over two types of vertices? two types of edges? Will we have to use `α₁`, `α₂`, `β₁`, `β₂`?

@YaelDillies I don't think it's productive to have an open-ended question like this on this PR. You have given your suggestion, and the PR author has given it consideration. Bhavik and I have given it consideration too, and I think we are in agreement that the PR is fine as is. Please use Zulip for further discussion.

**Comment by apnelson1** [comment]
I'm also happy to be proved wrong here once the API gets some use - as Kyle said, we can revisit this in time if it's causing friction, and it seems there is enough agreement with the current version to not hold things up right now.
